US08080552B2
A solution of 2.90 g (9.41 mmol) 3-[4-(2-fluoro-4-nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in a mixture of 50 ml TH/methanol 1:1 was hydrogenated over 500 mg 10% Pd/C for 10 h. The catalyst was filtered off and the filtrate evaporated. The obtained oil was dissolved in ethyl acetate and purified by chromatography on silica (dichloromethane/methanol 94:6) to give 1.70 g (65%) of 3-[4-(4-amino-2-fluoro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol.

reactant | 3-[4-(2-fluoro-4-nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 9.41 mmol, 2.90 g | FC1=C(OC2=NC(=NC=C2)NCCCO)C=CC(=C1)[N+](=O)[O-] | C13H13FN4O4
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-[4-(4-amino-2-fluoro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.70 g, 65% | NC1=CC(=C(OC2=NC(=NC=C2)NCCCO)C=C1)F | C13H15FN4O2
